US07273867B2
1.87 ml of 0.1N HCl in 2-propanol are added to 86 mg (0.187 mmol) of 2-(3-cyanophenylamino)-2-(2-fluorophenyl)-N-[3-methyl-4-(2-oxopiperidin-1-yl)phenyl]acetamide, and the mixture is left to stand at room temperature for 2 hours. The reaction mixture is evaporated and subsequently lyophilised, giving 2-(3-cyanophenylamino)-2-(2-fluorophenyl)-N-[3-methyl-4-(2-oxopiperidin-1-yl)phenyl]acetamide, hydrochloride, as a colourless solid; ESI 460.

reactant | HCl | 0.1N, 1.87 ml | Cl | ClH
reactant | 2-(3-cyanophenylamino)-2-(2-fluorophenyl)-N-[3-methyl-4-(2-oxopiperidin-1-yl)phenyl]acetamide | 0.187 mmol, 86 mg | C(#N)C=1C=C(C=CC1)NC(C(=O)NC1=CC(=C(C=C1)N1C(CCCC1)=O)C)C1=C(C=CC=C1)F | C27H25FN4O2
solvent | 2-propanol | CC(C)O | C3H8O
product | 2-(3-cyanophenylamino)-2-(2-fluorophenyl)-N-[3-methyl-4-(2-oxopiperidin-1-yl)phenyl]acetamide, hydrochloride | Cl.C(#N)C=1C=C(C=CC1)NC(C(=O)NC1=CC(=C(C=C1)N1C(CCCC1)=O)C)C1=C(C=CC=C1)F | InChI=1S/C27H25FN4O2.ClH/c1-18-15-21(12-13-24(18)32-14-5-4-11-25(32)33)31-27(34)26(22-9-2-3-10-23(22)28)30-20-8-6-7-19(16-20)17-29;/h2-3,6-10,12-13,15-16,26,30H,4-5,11,14H2,1H3,(H,31,34);1H
